US06488909B1
Production of S-methyl-thioglycolic Acid-N-(2-methylthioethyl)-amide
6 ml of 2-methylthio-ethylamine is dissolved in 250 ml of methylene chloride, mixed with 6.84 g of S-methyl-thioglycolic acid and with 7.42 g of N-hydroxysuccinimide and mixed drop by drop with 13.3 g of dicyclohexylcarbodiimide in 250 ml of methylene chloride under a cover-gas atmosphere. It is stirred, for 3 more hours at room temperature. The precipitate is filtered off, the filtrate is washed twice with semi-saturated sodium bicarbonate solution and once with water, dried with sodium sulfate and concentrated by evaporation. The residue is purified by chromatography with the mobile solvent system of methylene chloride/methanol: Yield 10 g=86.7% of theory.

reactant | 2-methylthio-ethylamine | 6 ml | CSCCN | C3H9NS
reactant | S-methyl-thioglycolic acid | 6.84 g | CSCC(=O)O | C3H6O2S
reactant | N-hydroxysuccinimide | 7.42 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 13.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | S-methyl-thioglycolic Acid-N-(2-methylthioethyl)-amide | CSCCNC(CSC)=O | C6H13NOS2
